data/pmechdb/original/mc_train_fold0/raw/train.txt
C1CC[C:20](=[O:21])CC1.C1CC[NH:10]C1.C1=CC=CC=C1>>C1CC[C:20](CC1)([NH+:10]2CCCC2)[O-:21].C1=CC=CC=C1 10=20;20,21=21
C=C[C:20]#[N+:21]C1CCCCC1.[OH2:10]>>C=C[C:20](=[N:21]C1CCCCC1)[OH2+:10] 10=20;20,21=21
[H:20][CH:21]([N+]#[C-])S(=O)(=O)C1CCC(CC1)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC1CCC(CC1)S(=O)(=O)[CH-:21][N+]#[C-] 10=20;20,21=21
[H:20][C:21]12C(CCC1(O2)C)OC.[Li:11][CH2:10]CCC>>[H:20][CH2:10]CCC.[Li+:11].CC12CCC([C-:21]1O2)OC 10,11=10,20;20,21=21
C[CH:20]([NH+:21](C)C)[OH:10]>>C[CH:20]=[OH+:10].C[NH:21]C 10=20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)C(F)(F)F.[N+:20](=O)=[O:21]>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])C(F)(F)F 10,11=10,20;20,21=21
CO[C:20](=[NH2+:21])O.[OH2:10]>>CO[C:20]([NH2:21])([OH2+:10])O 10=20;20,21=21
[H:20][NH+:21](C1(CC(C2=CC=CC=C21)CC)O)O.[OH-:10]>>[H:20][OH:10].CCC1CC(C2=CC=CC=C12)([NH:21]O)O 10=20;20,21=21
[H:20][CH:21]1CC2(CCCC(C2=O)([C+:22]1C)Br)C(=O)OC.[OH2:10].OS(=O)(=O)[O-]>>[H:20][OH2+:10].C[C:22]1=[CH:21]CC2(CCCC1(C2=O)Br)C(=O)OC.OS(=O)(=O)[O-] 10=20;20,21=21,22
CN[CH:10]=[O+:11]C>>CN[CH+:10][O:11]C 10,11=11
CCOC(=O)N1CCC=CC1C[CH+:20][CH2:10][Si-:11](C)(C)(C)O.Cl[Sn](Cl)(Cl)Cl>>CCOC(=O)N1CCC=CC1C[CH:20]=[CH2:10].C[Si:11](C)(C)O.Cl[Sn](Cl)(Cl)Cl 10,11=10,20
C[OH+:21][CH2:20][NH:10]C(CC1=CC=C(C=C1)O)C(=O)O.CO.O.[Cl-]>>C[OH:21].[CH2:20]=[NH+:10]C(CC1=CC=C(C=C1)O)C(=O)O.CO.O.[Cl-] 10=20;20,21=21
CCCCCC1CC(C[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)CCC>>CCCCCC1CC(C[CH:20]2C1OC(=[O+:10]2)C)CCC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](CCO)(CCO)CCO.CC[N+]1=C(SC(=C1C)CCO)C(C2=CC=C(C=C2)F)[O-:10].CCO.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)OC.[Br-]>>[H:20][O:10]C(C1=CC=C(C=C1)F)C2=[N+](C(=C(S2)CCO)C)CC.C(CO)[N:21](CCO)CCO.CCO.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)OC.[Br-] 10=20;20,21=21
C[C:20](CCC(=O)C1=CC=CC=C1)([NH:10]C2CCCCC2N)[OH2+:21].CC(=O)[O-].CO>>C[C:20](=[NH+:10]C1CCCCC1N)CCC(=O)C2=CC=CC=C2.[OH2:21].CC(=O)[O-].CO 10=20;20,21=21
[B-]([O:10]CCC[O+:21]=[CH:20]C)(F)(F)F>>[B-]([O+:10]1CCC[O:21][CH:20]1C)(F)(F)F 10=20;20,21=21
[CH2:20]=[CH:21][CH:22]=[O:23].O[O-:10]>>[CH2:20]([CH:21]=[CH:22][O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
C1OC2=CC(=C(C=C2O1)Br)[CH:20]=[OH+:21].C(CO)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1>>C1OC2=CC(=C(C=C2O1)Br)[CH:20]([OH:21])[OH+:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1 10=20;20,21=21
[H:20][O:21]CC.CC(CSC1=CC=CC=C1)[O-:10].[Na+]>>[H:20][O:10]C(C)CSC1=CC=CC=C1.CC[O-:21].[Na+] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CC)CCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC)CCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CCCC1[CH:11]=[CH:10]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCCC1[CH+:11][CH:10]2[CH2:20]CC1C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O+:21]=C(C)OC(=O)C.OS(=O)(=O)[O-:10]>>CC(=O)OC(=[O:21])C.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[B:20]1(C2CCCC1CCC2)C3CCCCC3C.O[O-:10].[OH-]>>[B-:20]1(C2CCCC1CCC2)(C3CCCCC3C)[O:10]O.[OH-] 10=20,
CC1[CH:20]([OH+:21]1)CCCC[OH:10]>>CC([CH:20]1CCCC[OH+:10]1)[OH:21] 10=20;20,21=21
COC1COC(C(C1OC)[O-:10])OC.[CH3:20][O:21]S(=O)(=O)C>>COC1COC(C(C1OC)[O:10][CH3:20])OC.CS(=O)(=O)[O-:21] 10=20;20,21=21
C[NH+](C)C1=C(C=C[CH:10]=[CH:11]1)Br.[N+:20](=O)=[O:21]>>C[NH+](C)C1=C(C=C[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])Br 10,11=10,20;20,21=21
[Li+:20].CCCC[Br-:11][C:10]1=CC=C2C(=C1)C=CN2C>>[Li:20][C:10]1=CC=C2C(=C1)C=CN2C.CCCC[Br:11] 10,11=10,20
[H:20][O:21]C1C=CC=CC(OC1CC=CC#C)CC.[C-:10](Cl)(Cl)Cl.CCCCCCCC[P+](CCCCCCCC)(CCCCCCCC)Cl>>[H:20][C:10](Cl)(Cl)Cl.CCC1C=CC=CC(C(O1)CC=CC#C)[O-:21].CCCCCCCC[P+](CCCCCCCC)(CCCCCCCC)Cl 10=20;20,21=21
CC(C)(C)O[C:20](CC1=CC=CC=C1)([N+:21]2=CC=C(C=C2)N(C)C)[O-:10].CC[NH+](CC)CC.CC(=O)[O-]>>CC(C)(C)O[C:20](=[O:10])CC1=CC=CC=C1.CN(C)C1=CC=[N:21]C=C1.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
C1=C(C=C(C(=C1)Br)[CH:20]([OH2+:21])[O:10]CCO)F.CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1=C(C=C(C(=C1)Br)[CH:20]=[O+:10]CCO)F.[OH2:21].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C.[OH-:10]>>[H:20][OH:10].CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C1(CCCCC1)C2(CC2)[Si](C)(C)C.[H:10][K:11]>>C[Si](C)(C)C1(CC1)C2(CCCCC2)[O-:21].[H:10][H:20].[K+:11] 10,11=10,20;20,21=21
CO[C:20](=[OH+:21])O.[NH3:10]>>CO[C:20]([NH3+:10])(O)[OH:21] 10=20;20,21=21
[N+:20](=O)([OH2+:21])[O-:10].CC1=NC(=CC(=N1)O)O.CC1=NC(=C(C(=N1)O)[N+](=O)[O-])O.CC(=O)[O-].C1=CC2=C(C=C(N=C2C=C1)O)O.O.OS(=O)(=O)[O-]>>[N+:20](=O)=[O:10].[OH2:21].CC1=NC(=CC(=N1)O)O.CC1=NC(=C(C(=N1)O)[N+](=O)[O-])O.CC(=O)[O-].C1=CC2=C(C=C(N=C2C=C1)O)O.O.OS(=O)(=O)[O-] 10=20;20,21=21
CC(=O)C[C:20]([N+:21]1=CC=C(C=C1)N(C)C)([O-:10])OC2(C=CC(=O)C=C2)C#CC3=CC=CC=C3>>CC(=O)C[C:20](=[O:10])OC1(C=CC(=O)C=C1)C#CC2=CC=CC=C2.CN(C)C1=CC=[N:21]C=C1 10=20;20,21=21
C1C[CH:10](C1)[N+:11]#N>>C1C[CH+:10]C1.N#[N:11] 10,11=11
CCCOC(=O)CN[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH2:10].N#N>>CCCOC(=O)CN[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH2+:10].N#N 10=20,
